US08729068B2
A mixture of 450 mg of 2-(trimethylsilyl)ethyl 3-{[1-(ethoxycarbonyl)cyclopropyl]sulfamoyl}benzoate, 0.22 mL of isopropyl iodide, 451 mg of potassium carbonate, and 4.5 mL of DMF were stirred at 65° C. overnight. To the reaction mixture was added water, followed by extraction with ethyl acetate. Then, the organic layer was washed with water and saturated brine in this order, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to obtain a pale yellow oily substance. To the obtained oily substance were added a solution of TBAF in THF (1.0 M, 2.0 mL) and 4.5 mL of THF, followed by stirring at room temperature for 2 hours. To the reaction mixture was added 0.2 M hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with 0.2 M hydrochloric acid, water, and saturated brine in this order, and then dried over anhydrous sodium sulfate. The resultant was concentrated under reduced pressure to obtain 319 mg of 3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoic acid as a colorless oily substance.

reactant | 2-(trimethylsilyl)ethyl 3-{[1-(ethoxycarbonyl)cyclopropyl]sulfamoyl}benzoate | 450 mg | C(C)OC(=O)C1(CC1)NS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C18H27NO6SSi
reactant | isopropyl iodide | 0.22 mL | C(C)(C)I | C3H7I
reactant | potassium carbonate | 451 mg | C([O-])([O-])=O.[K+].[K+]
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | hydrochloric acid | 0.2 M | Cl | ClH
solvent | THF | 1.0 M, 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | 3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoic acid | 319 mg | C(C)OC(=O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)C(C)C | C16H21NO6S
